US06891066B2
To a solution of the product of Example 2, Step A, 2-(2-chloro-4-iodophenylamino)-3,4-difluorobenzoic acid (10.0 g, 24.4 mmol), and pyridine (2.16 mL, 26.8 mmol) in anhydrous dimethylformamide (49 mL) was added pentafluorophenyl trifluoroacetate (5.35 mL, 30.5 mmol). The resultant solution was stirred at ambient temperature for 2 hours. The reaction mixture was diluted with ethyl acetate (600 mL) and washed with 0.1 M aqueous hydrochloric acid (2×240 mL), 25% saturated aqueous sodium bicarbonate (2×240 mL), and saturated brine (240 mL). The organics were dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford an oil that was purified on silica gel. Elution with hexanes-ethyl acetate (19:1) afforded 2-(2-chloro-4-iodophenylamino)-3,4-difluorobenzoic acid pentafluorophenyl ester (12.8 g, 91%) as a pale-yellow powder: m.p. 108.5-110.0° C.; 1H-NMR (400 MHz, CDCl3) δ 8.77 (br s, 1H), 8.07 (br s, 1 H), 7.69 (br s, 1H), 7.48 (br d, J=7.0 Hz, 1H), 6.91 (br d, J=7.2 Hz, 1 H), 6.67 (br s, 1H); 19F-NMR (376 MHz, CDCl3) δ −123.74 (s, 1F), −139.17 (d, J=16.8 Hz, 1F), −152.35 (d, J=21.4 Hz, 2F), −156.96 (t, J=21.4 Hz, 1F), −161.81 (t, J=21.4 Hz, 2F). Anal. Calcd/found for C19H6NO2F7ClI: C, 39.65/39.32; H, 1.05/0.91; N, 2.43/2.35; F, 23.10/22.85; Cl, 6.16/6.92; I, 22.05/22.50. Step C: Preparation of 2-(2-chloro-4-iodo-phenylamino)-3,4-difluoro-N-(2-hydroxy-ethoxy)-benzamide

reactant | 2-(2-chloro-4-iodophenylamino)-3,4-difluorobenzoic acid | 24.4 mmol, 10.0 g | ClC1=C(C=CC(=C1)I)NC1=C(C(=O)O)C=CC(=C1F)F | C13H7ClF2INO2
reactant | pyridine | 26.8 mmol, 2.16 mL | N1=CC=CC=C1 | C5H5N
reactant | pentafluorophenyl trifluoroacetate | 30.5 mmol, 5.35 mL | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
solvent | dimethylformamide | 49 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-chloro-4-iodophenylamino)-3,4-difluorobenzoic acid pentafluorophenyl ester | 12.8 g, 91% | FC1=C(C(=C(C(=C1OC(C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)Cl)=O)F)F)F)F | C19H6ClF7INO2
